US05059597
a) 8-Benzyl-5-methyl-2-oxa-5,8-diazabicyclo[4.3.0]nonane
18 g (71.9 mmol) of 1-benzyl-4-hydroxy-3-(2-hydroxyethylmethyl-amino)-pyrrolidine are reacted in 60 ml of concentrated sulphuric acid and 30 ml of water as in Example F a).

reactant | 1-benzyl-4-hydroxy-3-(2-hydroxyethylmethyl-amino)-pyrrolidine | 71.9 mmol, 18 g | C(C1=CC=CC=C1)N1CC(C(C1)O)N(C)CCO | C14H22N2O2
reactant | water | 30 ml | O | H2O
solvent | sulphuric acid | 60 ml | S(O)(O)(=O)=O | H2O4S
product | 8-Benzyl-5-methyl-2-oxa-5,8-diazabicyclo[4.3.0]nonane | C(C1=CC=CC=C1)N1CC2N(CCOC2C1)C | C14H20N2O
